* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 3.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 20
V8 N001 0 48
V9 N007 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N007 N006 220
R13 N007 0 10000
C4 N006 0 10p
R16 N003 N004 10000
R18 N004 N005 10000
D3 N004 N003 EDZV22B
R14 N002 N001 1
C1 N003 N004 10p
M1 N002 N004 N003 N003 Si7469DP
M2 LOAD N004 N003 N003 Si7469DP
M3 N005 N006 0 0 BSC047N08NS3
V1 N008 0 16.8
R2 N019 N018 220
R3 N019 0 10000
C2 N018 0 10p
R4 N010 N014 10000
R5 N014 N016 910
D1 N014 N010 EDZV13B
R7 N009 N008 1
C3 N010 N014 10p
M4 N009 N014 N010 N010 Si7469DP
M5 LOAD N014 N010 N010 Si7469DP
M6 N016 N018 0 0 BSC047N08NS3
R1 N014 0 10e5
R8 N004 0 10e5
C5 N008 0 10µ
C6 LOAD N014 1n
C7 LOAD N004 100p
V2 N019 0 PULSE(0 10 400m 1u 1u 20m 160m 2)
V3 N011 0 16.8
R9 N021 N020 220
R10 N021 0 10000
C8 N020 0 10p
R11 N013 N015 10000
R15 N015 N017 910
D2 N015 N013 EDZV13B
R17 N012 N011 1
C9 N013 N015 10p
M7 N012 N015 N013 N013 Si7469DP
M8 LOAD N015 N013 N013 Si7469DP
M9 N017 N020 0 0 BSC047N08NS3
R19 N015 0 10e5
C10 N011 0 10µ
C11 LOAD N015 1n
V4 N021 0 PULSE(0 10 460m 1u 1u 20m 160m 2)
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
