* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 3.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 5
V8 N001 0 48
V9 N008 0 PULSE(0 10 20m 1u 1u 300m 405m 1)
R12 N008 N007 10000
R13 N008 0 10000
C4 N007 0 1n
R18 N004 N006 10000
D3 N004 N003 EDZV22B
R14 N002 N001 0.1
C1 N003 N004 100n
M1 N002 N004 N003 N003 Si7469DP
M2 LOAD N004 N003 N003 Si7469DP
M3 N006 N007 0 0 BSC047N08NS3
V1 N009 0 16.8
R2 N020 N019 220
R3 N020 0 10000
C2 N019 0 10p
R4 N011 N015 10000
R5 N015 N017 910
D1 N015 N011 EDZV13B
R7 N010 N009 1
C3 N011 N015 10p
M4 N010 N015 N011 N011 Si7469DP
M5 LOAD N015 N011 N011 Si7469DP
M6 N017 N019 0 0 BSC047N08NS3
R1 N015 0 10e5
R8 N004 0 10e5
C5 N009 0 10µ
C6 LOAD N015 1n
C7 LOAD N004 100p
V2 N020 0 PULSE(0 10 400m 1u 1u 20m 160m 2)
V3 N012 0 16.8
R9 N022 N021 220
R10 N022 0 10000
C8 N021 0 10p
R11 N014 N016 10000
R15 N016 N018 910
D2 N016 N014 EDZV13B
R17 N013 N012 1
C9 N014 N016 10p
M7 N013 N016 N014 N014 Si7469DP
M8 LOAD N016 N014 N014 Si7469DP
M9 N018 N021 0 0 BSC047N08NS3
R19 N016 0 10e5
C10 N012 0 10µ
C11 LOAD N016 1n
V4 N022 0 PULSE(0 10 460m 1u 1u 20m 160m 2)
C12 N005 0 20µ
R20 LOAD N005 10
C13 N002 N004 100n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
