* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 3.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 5
V8 N001 0 48
V9 N007 0 PULSE(0 10 20m 1u 1u 300m 405m 1)
R12 N007 N006 10000
R13 N007 0 10000
C4 N006 0 1n
R16 N003 N004 20000
R18 N004 N005 10000
D3 N004 N003 EDZV22B
R14 N002 N001 0.1
M1 N002 N004 N003 N003 Si7469DP
M2 LOAD N004 N003 N003 Si7469DP
M3 N005 N006 0 0 BSC047N08NS3
V1 N008 0 16.8
R2 N019 N018 220
R3 N019 0 10000
C2 N018 0 10p
R4 N010 N014 10000
R5 N014 N016 910
D1 N014 N010 EDZV13B
R7 N009 N008 1
C3 N010 N014 10p
M4 N009 N014 N010 N010 Si7469DP
M5 LOAD N014 N010 N010 Si7469DP
M6 N016 N018 0 0 BSC047N08NS3
R1 N014 0 10e5
C5 N008 0 10µ
C6 LOAD N014 1n
C7 LOAD N004 50n
V2 N019 0 PULSE(0 10 400m 1u 1u 20m 160m 2)
V3 N011 0 16.8
R9 N021 N020 220
R10 N021 0 10000
C8 N020 0 10p
R11 N013 N015 10000
R15 N015 N017 910
D2 N015 N013 EDZV13B
R17 N012 N011 1
C9 N013 N015 10p
M7 N012 N015 N013 N013 Si7469DP
M8 LOAD N015 N013 N013 Si7469DP
M9 N017 N020 0 0 BSC047N08NS3
R19 N015 0 10e5
C10 N011 0 10µ
C11 LOAD N015 1n
V4 N021 0 PULSE(0 10 460m 1u 1u 20m 160m 2)
C12 LOAD 0 10µ
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
